US03988143
Preparation of Tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)-3-allyl-6-butoxy-2(1H)-pyrimidinone
Tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)-3-allyl-6-hydroxy-2(1H)-pyrimidinone (7 grams), butyl alcohol (50 ml) and toluenesulfonic acid (0.2 grams) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture is then heated at reflux for a period of about 24 hours. After this time the mixture is stripped of unreacted alcohol under reduced pressure to yield a solid product. This product is then recrystallized to yield the desired product tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)-3-allyl-6-butoxy-2(1H)-pyrimidinone.

reactant | Tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)-3-allyl-6-hydroxy-2(1H)-pyrimidinone | 7 grams | CS(=O)(=O)C1=NN=C(S1)N1C(N(CCC1O)CC=C)=O | C10H14N4O4S2
reactant | toluenesulfonic acid | 0.2 grams | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | butyl alcohol | 50 ml | C(CCC)O | C4H10O
product | tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)-3-allyl-6-butoxy-2(1H)-pyrimidinone | CS(=O)(=O)C1=NN=C(S1)N1C(N(CCC1OCCCC)CC=C)=O | C14H22N4O4S2
